Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Suicidal Ideation
On Admission to Deac 4: "I think I just really wanted help"
On emergency department admission: "I got really drunk"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ ___ consult note:
"Mr. ___ is a ___ year old male with history of depression and
anxiety who presents via EMS from ___ after expressing suicidal
ideation to a friend.  Per triage notes, patient drank a
significant amount of alcohol today for "courage" and planned to
cut himself.  ETOH level 136 at 1600. Psychiatry consulted for
safety evaluation

Mr. ___ reports that he woke up this morning around 11 am and
started drinking around noon.  He decided the night before, that
if his friend cancels their plans on him today, that is a sign
"life's not worth living".  When his friend cancelled this
morning, he reported worsening of mood and intensifying of his
suicidal ideation.  Reports his suicidal thoughts were very
strong this morning and scared him.  "They've never driven me to
drink before".  He started drinking shots at home alone to 
either
"not do it, or give me courage to do it".  He had plans to
suicide by cyanide poisoning but couldn't figure out how to
acquire any.  He then planned to slit his wrists.  He got a
kitchen knife, but "chickened out", however, still made some
horizontal scratch marks on his forearm. He has never engaged in
self injury before.  He texted an acquaintance reporting his
suicidality who contacted ___ campus police.  

Overall, ___ reports that "everything is going poorly" in
his life.  He is not doing very well in school and having
challenging issues with friends/relationships.  States he relies
on others to make him happy and is always disappointed.  He has
been depressed since ___ grade with fleeting periods of
happiness.  Reports terrible sleep, low motivation, poor energy,
poor appetite, and difficulty concentrating.  He has had 
suicidal
thoughts for many years but denies any prior attempts or close
abortions.  He later reports one prior incident following a knee
surgery when he intentionally took "a bunch" of his pain
medication.  He states "I'm not sure if it was a suicide
attempt".    

No concerning history for mania or psychotic symptoms.  He is
currently denying active thoughts of suicide.  

Per collateral provided by patient's father (___) and ___
public safety, patient's behavior is uncharacteristic of him.
Patient's father communicates with patient once every week or
every other week, and confirms patient's history of suicidal
ideation and depression.

Per patient's therapist ___ from ___), who sees patient weekly, patient has
struggled with passive SI for months but it has become more
intense in recent weeks. They speak about it during nearly all 
of
their sessions. He has never expressed suicidal intent or plan.
She believes that he takes his medication daily but notes that 
he
appears more depressed over the last few weeks."

Course in Emergency Department (including behavior, medications
given):

Behavior, per nursing notes: Patient has been tearful. No
restraints, seclusion only per ___.

Medications:
___ 21:15 PO Potassium Chloride 40 mEq 
___ 08:25 PO BuPROPion XL (Once Daily) 300 mg
___ 08:25 PO/NG Sertraline 50 mg
 
Past Medical History:
Past psychiatric history:
Per Dr. ___ ___ C/S Note and updated as appropriate:
 Diagnoses: depression and anxiety, denies hx of panic attack
 Hospitalizations: Denies 
 Current treaters and treatment:
-Therapist- Dr. ___, ___ Psychiatry 
-Psychiatrist- Dr. ___
 ___ and ECT trials:
-Currently on Zoloft 50mg and Wellbutrin XL 300mg
-Prior trial of Prozac many years ago
-Never ECT before 
 Self-injury: 
-Longstanding history of suicidal ideation
-prior incident of intentional overdose of pain meds, patient
unsure if this was a suicide attempt (this happened at age ___
 Harm to others: Unclear, patient reports history of arrest 
after
he was found holding a knife reporting he was afraid of his
roommate and didn't want him to hurt him. 
 Access to weapons: Pt denies access to guns but does have 
access
to kitchen knives

Family psychiatric history: None, per patient report.

Past medical history: Patient denies active medical issues.
 
Social History:
Substance use history: Per Dr. ___:
-History of heavier alcohol use in past
-Currently drinking once every two weeks 
-Tried Marijuana once many years ago
-denies other substances including cocaine, heroin 

Personal and Social History: Per Dr. ___:
 Family of origin: Originally from ___, moved to ___ when
starting at ___
 Childhood: Pt reports frequent verbal abuse by mother growing
up.  He cut off contact but recently re-opened communication.  
He
has siblings which he currently does not speak to and does not
wish to discuss.  He does speak with his Father who currently
lives in ___
 Education: Currently studying ___ at ___. Reported
this was not his first choice however missed cutoff for ___ and did not want to stay in undeclared college. 
 Housing: Off campus apartment, alone (near school)
 Relationships/children: Recent break-up per collateral
information
 Access to weapons: Pt denies access to firearms, but does have
access to knives. 

FORENSIC HISTORY:
 Arrests: one prior, last year after holding knife in reported
self defense of roommate; no active issues 
 Convictions and jail terms: denies
 Current Status: no active issues               
 
Family History:
Family psychiatric history: None, per patient report.
Family Substance HIstory: 
Maternal Grandfather - ___ Abuse 

 
Physical Exam:
Physical Examination:
Vitals BP 136/81 HR 95 98% Sp02 RR 16 T 98.1

General: Age-appropriate, in a hospital gown.
Skin: Several superficial horizontal cuts along anterior aspect
of left forearm. No visible rashes.
HEENT: PERRL 4 -> 3. EOM grossly intact. Oropharynx without
lesions, erythema, or exudates.
Lungs: CTAB, no wheezes, normal work of breathing.
CV: RRR, no murmurs, rubs, or gallops.
Abdomen: Soft, non-tender, non-distended.
Extremities: Warm, well-perfused. No pitting edema bilaterally.
Neuro-
CN: 
     Pupils symmetric and responsive to light and accommodation
     Visual fields: Not directly assessed. Without obvious
deficits.
     EOM: intact
     Intact facial symmetry on eye closure and smile: intact and
no asymmetry
     Hearing bilaterally to rubbing fingers: intact
     Phonation: normal
     Head turning and shoulder shrug: normal bilaterally
     Tongue: midline, no ___

Motor: Strength Grossly Intact

Sensation: Intact 
Coordination: Intact 
Gait/Romberg: WNL 

Neuropsychiatric Examination:
  *Appearance: young man with brown hair, young facial features,
tall stature, wearing hospital gown
  Behavior: calm, appropriate, appearing withdrawn
  *Mood and Affect: "I just really wanted help"/dysthmic
  *Thought process: linear, no LOA 
  *Thought Content: no current SI/HI, feels he can ask for help
with safety on unit, denies AVH
  *Judgment and Insight: poor/improving
  Cognition:
    *Attention: DOWB ___
    *orientation: BI, Trump, ___, Location, City
    *Memory: intact to last three presidents
    *Fund of knowledge: can name ___ play by ___, average
    Calculations: correctly states 9 quarters in $2.25
    Abstraction: correctly interprets proverbs
    Visuospatial: not assessed
    *Speech: normal rate, rhythm, prosody, slightly quiet volume
    *Language: fluent ___ with no pharaphasic errors 
 
Pertinent Results:
___ 03:55PM   NEUTS-78.6* LYMPHS-14.2* MONOS-5.7 EOS-0.3* 
BASOS-0.5 IM ___ AbsNeut-6.78* AbsLymp-1.22 AbsMono-0.49 
AbsEos-0.03* AbsBaso-0.04
___ 03:55PM   WBC-8.6 RBC-5.58 HGB-16.1 HCT-46.1 MCV-83 
MCH-28.9 MCHC-34.9 RDW-12.2 RDWSD-36.7
___ 03:55PM   ASA-NEG ___ ACETMNPHN-NEG 
tricyclic-NEG
___ 03:55PM   PLT COUNT-280
___ 03:55PM   GLUCOSE-93 UREA N-7 CREAT-0.9 SODIUM-143 
POTASSIUM-3.5 CHLORIDE-104 TOTAL CO2-20* ANION GAP-19*
___ 07:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:20PM URINE  HOURS-RANDOM
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.  Initially 
he was placed on red sharps due to self-injurious behavior prior 
to admission, however, this was discussed with patient and he 
was assessed to be ok with green sharps status and able to tell 
staff if he felt like self-harming. 

2. PSYCHIATRIC:
#) MDD/Social Anxiety Disorder
Patient arrived after drinking to get "courage" for suicide 
attempt and having researched lethal ways.  He did not go about 
purchasing any cyanide though did "ten minutes" of research on 
the internet.  He drank a significant amount of alcohol with the 
plan of cutting his wrists, however sent a text message to 
another student who reported to campus police.  He reported 
being relieved to be on the unit and felt he just "really wanted 
some help".

Patient reported he was hoping for medication change, social 
skills to make new friends and combat loneliness/social 
isolation, looking forward to going back to school.  Outpatient 
Psychiatrist was consulted for medication changes and Mr. ___ 
was started on 30mg of Duloxetine in replacement of Zoloft due 
to patient report that it was not helpful.  Wellbutrin XL 300mg 
was continued.  Major complaints and symptoms revolved around 
fatigue, poor energy, anhedonia, passive SI, and feeling lonely. 
 

Patient was participatory in groups and accepting of DBT 
worksheets.  Attended groups such as coping skills.  At first he 
was shy and kept to himself, but within one day was noted to be 
socializing in milieu and active with unit activities.

Recommendations moving forward:
- Patient states he found a video he made of the events of 
___ team advised him to discuss with outpatient therapist 
and NOT to watch in the meantime.  
- Recommend routines (sleep schedule, regular meal times), 
exercise, joining clubs, getting involved in activities
- Team feels patient may do well with CBT
- Continued titration of Cymbalta for depression/anxiety as 
outpatient psychiatrist and patient see fit 

#) Questionable history of violence:
Spoke with outpatient providers who provided an account of 
patient grabbing a knife when upset with roommate, for which he 
was arrested but no formal charges issues.  This is the inciting 
event of what got patient into mental health services.  This was 
discussed with the patient who contends he grabbed the knife in 
self-defense as well as defense of ex-girlfriend.  He reports he 
was arrested because he was the one with the knife.  While on 
the unit, he demonstrated no aggressive or violent behavior 
whatsoever.  He was behaviorally appropriate and denied 
homicidal ideation.  We talked extensively about coping skills 
and urged him to continue this work outside of the hospital with 
his outpatient provider. 

3. SUBSTANCE USE DISORDERS:
#) Binge Drinking, r/o Alcohol Use Disorder
Patient is a college student, and reported binge-drinking 
activities in the previous year.  However, he reports he does 
not regularly drink.  When he arrived on unit, was kept on CIWA 
as a precautionary measure; he did not score or need any PRN 
Diazepam.  Did not display any type of withdrawal symptoms.  
Patient was counseled about the dangers of alcohol and potential 
interactions with medications, including Wellbutrin.  

4. MEDICAL
#) No known medical conditions and patient did not have any 
issues while on the unit. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  Patient was pleasant in milieu. 
 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Father, Mr. ___ was in contact with team and 
supportive of his son.  He flew in from ___ and came to visit 
patient on ___ (Day 3 of admission).  He attended family 
meeting and voiced understanding of patient's situation.  He was 
supportive and present. 

Family Meeting ___:
Father was present for family meeting prior to discharge on 
___.  Reviewed the circumstances of admission, medication 
changes, coping skills, resources, aftercare plans, ways to help 
patient, and emphasized importance of communication going 
forward. Father was understanding and voiced gratitude toward 
team and to be with his son.  Will be staying in town until 
___ to help ease transition for son. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Duloxetine medication, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
aborted suicide attempt, previous overdose on pain medication 
without intention of death, ongoing depressed mood with 
hopelessness, additional psychosocial stressors including doing 
poorly in
school.  His static factors noted at that time include aborted 
suicide attempt, single status, male gender, history of trauma 
(verbal abuse by mother), ___ race, young age, 
questionable history of violence (for which he was originally 
referred to his outpatient therapist/psychiatrist).   The 
modifiable risk factors were also addressed at that time.  For 
worsening depression/mood/low energy the patient was changed 
from Zoloft to Duloxetine.  For insomnia/anxiety he received 
hydroxyzine 25mg PRN with good effect.  Additionally, he 
received extensive psychoeducation on coping skills including 
group therapy, individual therapy, DBT worksheets.  Finally, the 
patient is being discharged with many protective risk factors 
including relationship with his father, good relationship with 
outpatient providers, intelligence, pleasant demeanor, intention 
of finishing college, stable housing, lack of drug use, 
motivation to improve, future-oriented viewpoint.  Currently, he 
does not have any suicidal or homicidal ideation at this time. 
Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 300 mg PO DAILY 
2. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  DULoxetine 30 mg PO DAILY 
RX *duloxetine 30 mg 1 capsule(s) by mouth daily Disp #*14 
Capsule Refills:*0 
2.  HydrOXYzine 25 mg PO Q6H:PRN anxiety/insomnia 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth twice daily as 
needed Disp #*10 Tablet Refills:*0 
3.  BuPROPion XL (Once Daily) 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Social Anxiety Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
- You may also call BEST ___ Emergency Services Team) at 1 
___ in case of emergency
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___